US04699984
A mixture containing 34 g of ethyl 6-fluoro-1,4-dihydro-7-(2,6-dimethyl-4-pyridinyl)-4-oxo-3-quinolinecarboxylate, finely divided anhydrous potassium carbonate and 250 ml of dimethylformamide was heated with stirring on a steam bath for 20 minutes and then 9 ml of ethyl iodide was added over a 20 minute period. The reaction mixture was heated on a steam bath with stirring for 2 and 1/2 hours and then concentrated to dryness on a rotary evaporator. The residue was shaken well with 300 ml of water and 500 ml of chloroform. The layers were separated and the aqueous layer was extracted with another 200 ml portion of chloroform. The combined chloroform extracts were concentrated in vacuo to remove the chloroform. The remaining solid was dissolved in 150 ml of hot isopropyl alcohol, the hot solution treated with decolorizing charcoal and filtered. The filtrate was concentrated on a rotary evaporator to a volume of about 50 ml which was diluted with ether until turbid. The mixture was allowed to cool and the separated crystalline solid was collected, washed with ether and dried at 80°-85° C. to yield 18.5 g of ethyl 1-ethyl-6-fluoro-1,4-dihydro-7-(2,6-dimethyl-4-pyridinyl)-4-oxo-3-quinolinecarboxylate, m.p. 221°-224° C. Further concentration of the mother liquor yielded another 3.4 g (60%) of product, m.p. 220°-223° C. A larger run (0.3 mole scale) gave the above compound, m.p. 222°-225° C., in 80% yield.

reactant | ethyl 6-fluoro-1,4-dihydro-7-(2,6-dimethyl-4-pyridinyl)-4-oxo-3-quinolinecarboxylate | 34 g | FC=1C=C2C(C(=CNC2=CC1C1=CC(=NC(=C1)C)C)C(=O)OCC)=O | C19H17FN2O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 9 ml | C(C)I | C2H5I
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | ethyl 1-ethyl-6-fluoro-1,4-dihydro-7-(2,6-dimethyl-4-pyridinyl)-4-oxo-3-quinolinecarboxylate | 18.5 g | C(C)N1C=C(C(C2=CC(=C(C=C12)C1=CC(=NC(=C1)C)C)F)=O)C(=O)OCC | C21H21FN2O3
